US05559230
A mixture of 1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.50 g), phenylsulfonyl chloride (0.29 ml), triethylamine (0.32 ml) and dichloromethane (30 ml) is stirred at room temperature overnight. The reaction mixture is washed successively with water and saturated saline solution, and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; chloroform), and recrystallized from methanol/diethyl ether to give 1-(4-phenylsulfonylaminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.27 g) as colorless prisms, m.p. 178°-182.5° C.

reactant | 1-(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.50 g | NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C17H18N2O
reactant | phenylsulfonyl chloride | 0.29 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | triethylamine | 0.32 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(4-phenylsulfonylaminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.27 g | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C23H22N2O3S
